US04165365
A mixture of 785 mg (3.3 mmole) of N-(2,3-dihydroxypropionyl)-3-amino-5-nitroaniline and 690 mg (3.3 mmole) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 30 ml of methanol was heated under reflux for 30 minutes. After cooling, the crystalline product was filtered and dried in vacuum to give 616 mg of 5-acetyl-4-hydroxy-3-[1-(3-glyceroylamino-5-nitrophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione.

reactant | N-(2,3-dihydroxypropionyl)-3-amino-5-nitroaniline | 3.3 mmole, 785 mg | OC(C(=O)NC1=CC(=CC(=C1)[N+](=O)[O-])N)CO | C9H11N3O5
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | 3.3 mmole, 690 mg | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | 30 ml | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(3-glyceroylamino-5-nitrophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | 616 mg | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC(=CC(=C1)[N+](=O)[O-])NC(C(O)CO)=O)O | C18H17N3O10
